US06897208B2
A mixture of 1,2-diaminobenzene (108 mg), indazole-3-carboxylic acid (118 mg) and polyphosphoric acid (1 mL) was heated at 150-160° C. for 24 hours. The mixture was cooled, then diluted with ice water (10 mL) and then treated with ethyl acetate (10 mL). The aqueous layer was basified by addition of solid potassium carbonate. The layers were separated and the aqueous layer was extracted with ethyl acetate (10 mL). The combined organic phases were dried and then evaporated. The residue was subjected to chromatography on silica eluting with a mixture of heptane and ethyl acetate to give 3-(1H-benzoimidazol-2-yl)-1H-indazole (78 mg). LC-MS (METHOD A): RT=1.28 minutes; 235 (M+H)+. (b) 3-(5-Methoxy-1H-benzoimidazol-2-yl)-1H-indazole

reactant | 1,2-diaminobenzene | 108 mg | NC1=C(C=CC=C1)N | C6H8N2
reactant | indazole-3-carboxylic acid | 118 mg | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3-(1H-benzoimidazol-2-yl)-1H-indazole | 78 mg | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC=CC=C21 | C14H10N4
